US04594341
N-t-Butoxycarbonyl-S-(2-aminoethyl)-D,L-homocysteine
N-t-Butoxycarbonyl-S-(2-carbobenzyloxycarbonyl aminoethyl)-D,L-homocysteine (1.0 g) is treated with sodium in liquid ammonia according to the procedure described in Example 2. After the ammonia has evaporated off, the residue is extracted with ethanol. Inorganic salts (0.4 g) is removed by filtration. After removal of ethanol, the residue is taken up in 5 ml of water. The aqueous solution is extracted with ether, and then acidified to pH 4 with 4M hydrochloric acid. The solution is concentrated to a volume of 2 ml. Excess ether is added. The product crystallizes out as a white solid (0.32 g). The NMR spectrum (in MeOH-d4 and NaOD) shows a triplet at 3.7, complex absorption between 2.1 and 2.6, a multiplet between 1.5 and 1.9, and a singlet at 1.2.

reactant | N-t-Butoxycarbonyl-S-(2-carbobenzyloxycarbonyl aminoethyl)-D,L-homocysteine | 1.0 g | C(C)(C)(C)OC(=O)NC(CCSCC(C(=O)C(=O)OCC1=CC=CC=C1)N)C(=O)O | C20H28N2O7S
reactant | sodium | [Na] | Na
reactant | ammonia | N | H3N
product | N-t-Butoxycarbonyl-S-(2-aminoethyl)-D,L-homocysteine | C(C)(C)(C)OC(=O)NC(CCSCCN)C(=O)O | C11H22N2O4S
